US08604069B2
(A-53-6) 3-(2,2-Dimethylpropyl)-1-cyclobutenecarboxylic acid
Ethyl 3-(2,2-dimethylpropyl)-2-piperidin-1-ylcyclobutanecarboxylate (1470 g) and methyl p-toluenesulfonate (417 mL) were mixed. After the mixture was stirred at 105° C. for 2 hr, water (2100 mL) was poured into the reaction mixture and the aqueous layer was extracted. The aqueous layer was washed with tert-butyl methyl ether/hexane=1/1 (800 mL) and hexane (600 mL). To the aqueous layer was added potassium hydroxide (663 g) at ice temperature and the mixture was stirred at 100° C. for 2 hr. After the reaction mixture was washed with tert-butyl methyl ether/hexane=1/1 (600 mL×2), concentrated hydrochloric acid (500 mL) and 6 N hydrochloric acid (606 mL) were added to the aqueous layer at ice temperature. The mixture was extracted with ethyl acetate (600 mL×2). The combined organic layer was washed with water (1 L×2) and brine (500 mL), then dried over magnesium sulfate. The magnesium sulfate was filtered off and the filtrate was concentrated in vacuo to give the title compound (278 g) as a crude product.

reactant | Ethyl 3-(2,2-dimethylpropyl)-2-piperidin-1-ylcyclobutanecarboxylate | 1470 g | CC(CC1C(C(C1)C(=O)OCC)N1CCCCC1)(C)C | C17H31NO2
reactant | methyl p-toluenesulfonate | 417 mL | C1(=CC=C(C=C1)S(=O)(=O)OC)C | C8H10O3S
solvent | water | 2100 mL | O | H2O
product | 3-(2,2-Dimethylpropyl)-1-cyclobutenecarboxylic acid | 278 g | CC(CC1C=C(C1)C(=O)O)(C)C | C10H16O2
